US09422290B2
4-(6-Chloro-3-hydrazino-pyridazin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
4-(3,6-Dichloro-pyridazin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (9.73 g; 28.03 mmol) was dissolved in 20 ml EtOH and treated with Hydrazine Hydrate (14.03 g; 280.33 mmol). It was stirred at 70° C. for 16 hours. Two peaks with product mass detected via HPLC-MS. The reaction mixture was extracted with aqueous NaHCO3 solution and DCM. The organic phase was dried and evaporated to dryness. The crude product was purified by using reversed phase chromatography under acid conditions.

reactant | 4-(3,6-Dichloro-pyridazin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 28.03 mmol, 9.73 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(N=NC(=C1)Cl)Cl | C14H20Cl2N4O2
reactant | Hydrazine Hydrate | 280.33 mmol, 14.03 g | O.NN
solvent | EtOH | 20 ml | CCO | C2H6O
product | 4-(6-Chloro-3-hydrazino-pyridazin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C(N=NC(=C1)Cl)NN | C14H23ClN6O2
